US06008229
To a solution of 1-[3-(tert-butyldiphenylsilyloxymethyl)-2,4-dichlorophenyl]-2-cyanopyrrole (820 mg) in anhydrous tetrahydrofuran (16 ml) was added lithium aluminum hydride (74 mg) and the mixture was stirred at ambient temperature for 1 hour. The reaction mixture was quenched by adding water (2 ml) dropwise under ice-water cooling. Ethyl acetate (50 ml) and water (50 ml) were added thereto and the precipitate was filtered off. The organic layer was isolated and the aqueous layer was extracted with ethyl acetate. The combined organic phases were washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by a silica gel column chromatography eluted with chloroform-methanol to give 2-aminomethyl-1-[3-(tert-butyldiphenylsilyloxymethyl)-2,4-dichlorophenyl]pyrrole (414 mg) as a pale yellow oil.

reactant | 1-[3-(tert-butyldiphenylsilyloxymethyl)-2,4-dichlorophenyl]-2-cyanopyrrole | 820 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C(=C(C=CC1Cl)N1C(=CC=C1)C#N)Cl | C28H26Cl2N2OSi
reactant | lithium aluminum hydride | 74 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | 2-aminomethyl-1-[3-(tert-butyldiphenylsilyloxymethyl)-2,4-dichlorophenyl]pyrrole | 414 mg | NCC=1N(C=CC1)C1=C(C(=C(C=C1)Cl)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)Cl | C28H30Cl2N2OSi
